US06489344B1
To a suspension of resin-bound [2-(dimethylamino)ethyl]{2-[(5-nitro(2-pyridyl))-amino]ethyl}[(2-nitrophenyl)sulfonyl]amine (3.0 g, 2.1 mmol) and DMF (30 mL) at 23° C. was added H2O(2 drops), K2CO3 (2.9 g, 21 mmol) and PhSH (2.2 mL, 21 mmol). The resulting mixture was shaken at 23° C. for 12 h, filtered, washed with NMP, H2O and CH2Cl2 and air dried to yield polymer-bound dimethyl[2-({2-[(5-nitro(2-pyridyl))amino]-ethyl}amino)ethyl]amine.

reactant | [2-(dimethylamino)ethyl]{2-[(5-nitro(2-pyridyl))-amino]ethyl}[(2-nitrophenyl)sulfonyl]amine | 2.1 mmol, 3.0 g | CN(CCN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCNC1=NC=C(C=C1)[N+](=O)[O-])C | C17H22N6O6S
reactant | K2CO3 | 21 mmol, 2.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | PhSH | 21 mmol, 2.2 mL | C1(=CC=CC=C1)S | C6H6S
catalyst | H2O | 2 drops | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | dimethyl[2-({2-[(5-nitro(2-pyridyl))amino]-ethyl}amino)ethyl]amine | CN(CCNCCNC1=NC=C(C=C1)[N+](=O)[O-])C | C11H19N5O2
